US07223776B2
48.a) trans-4-tert-Butoxycarbonylamino-cyclohexanecarboxylic acid
Di-tert-butyl dicarbonate (12 g, 55 mmol) dissolved in dioxane (50 ml) was added dropwise to a solution of trans-4-aminocyclohexanecarboxylic acid (Synth. Commun. 2002, 32, 1985) (7.16 g, 50 mmol) in dioxane (50 ml) and water (50 ml). After stirring for 30 minutes at room temperature, 1M NaOH (50 ml) was added and the reaction mixture was stirred overnight at room temperature. The dioxane was distilled off using a rotary evaporator and the aqueous residue was adjusted to pH 3 using 1N HCl and extracted with ethyl acetate. Organic extracts dried over Na2SO4 and concentrated.

reactant | Di-tert-butyl dicarbonate | 55 mmol, 12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | trans-4-aminocyclohexanecarboxylic acid | 50 mmol, 7.16 g | N[C@@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | NaOH | 1M, 50 ml | [OH-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | trans-4-tert-Butoxycarbonylamino-cyclohexanecarboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
